US05660598
A stirred mixture of disodium salt of 4-cyano-5-dicyanomethylidene-3-hydroxy-2-oxo-2,5-dihydropyrrole (29.9 parts) and dry N,N-dimethylformamide (150 parts) was cooled to -10° C. and N-(2-ethylhexyl)-N-propylaniline containing 30% acetic anhydride (63 parts) was added followed by the dropwise addition of phosphorous oxychloride (34 parts) maintaining the temperature at less than -5°C. The mixture was allowed to warmup to room temperature and stirred for 20 hours. The reaction mixture was poured into a stirred mixture of ice and water (200 parts) and acetone (200 parts) and then stirred for 0.5 hours. The solid was filtered off, washed with hot water and dried under vacuum to give 3-(4-(N-(2-ethylhexyl)-N-propylamino)phenyl)-4-cyano-5-dicyanomethylidene-2-oxo-2,5-dihydropyrrole (48.5 parts, 90%).

reactant | disodium | [Na][Na] | 2Na
reactant | 4-cyano-5-dicyanomethylidene-3-hydroxy-2-oxo-2,5-dihydropyrrole | C(#N)C1=C(C(NC1=C(C#N)C#N)=O)O | C8H2N4O2
reactant | N-(2-ethylhexyl)-N-propylaniline | C(C)C(CN(C1=CC=CC=C1)CCC)CCCC | C17H29N
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4-(N-(2-ethylhexyl)-N-propylamino)phenyl)-4-cyano-5-dicyanomethylidene-2-oxo-2,5-dihydropyrrole | 90% | C(C)C(CN(CCC)C1=CC=C(C=C1)C=1C(NC(C1C#N)=C(C#N)C#N)=O)CCCC | C25H29N5O
